US08563565B2
(1) Synthesis of 3-bromo-4,6-dimethylpicolinaldehyde
Sodium methoxide (581 mg) was added to a solution of 2-nitropropane (0.982 mL) in methanol (20 mL) at room temperature, and the mixture was stirred at the same temperature for 20 minutes. 3-bromo-2-(bromomethyl)-4,6-dimethylpyridine obtained in Preparation Example 33(1) (1.00 g) was added to the reaction mixture, and the mixture was stirred at 50° C. for five hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 50%) to give the title compound (467 mg).

reactant | Sodium methoxide | 581 mg | C[O-].[Na+]
reactant | 2-nitropropane | 0.982 mL | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 3-bromo-2-(bromomethyl)-4,6-dimethylpyridine | BrC=1C(=NC(=CC1C)C)CBr | C8H9Br2N
solvent | methanol | 20 mL | CO | CH4O
product | 3-bromo-4,6-dimethylpicolinaldehyde | 467 mg | BrC=1C(=NC(=CC1C)C)C=O | C8H8BrNO
